US07211573B2
h) (R)-7-Amino-2-fluoro-6,6-dimethyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one
The title compound was prepared by hydrogenation of (+)-(R)-7-dibenzylamino-2-fluoro-6,6-dimethyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one in methanol with Pd/C (10%), MS m/e (%): 225.3 (M+H+, 100).

reactant | (+)-(R)-7-dibenzylamino-2-fluoro-6,6-dimethyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | C(C1=CC=CC=C1)N([C@@H]1C(OC2=C(NC1=O)C=C(C=C2)F)(C)C)CC2=CC=CC=C2 | C25H25FN2O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (R)-7-Amino-2-fluoro-6,6-dimethyl-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | N[C@@H]1C(OC2=C(NC1=O)C=C(C=C2)F)(C)C | C11H13FN2O2
